US08076345B2
A) 6-Benzyl-N-((6-chloropyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
A mixture of 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (2.5 g, 9.6 mmol), 2-chloro-5-aminomethylpyridine (2.7 g, 19 mmol), acetonitrile (10 mL), and N,N-diisopropylethylamine (3.4 mL, 19 mmol) was subjected to microwave irradiation at 180° C. for 2 h. After standing at rt overnight, the precipitated solids were collected by filtration and washed with cold acetonitrile (5 mL×2), and dried to yield a yellow powder (2.8 g, 77%).

reactant | 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 9.6 mmol, 2.5 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
reactant | 2-chloro-5-aminomethylpyridine | 19 mmol, 2.7 g | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | N,N-diisopropylethylamine | 19 mmol, 3.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-Benzyl-N-((6-chloropyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 2.8 g, 77% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)Cl)CC1 | C20H20ClN5
